US05514769
4,4'-(o-phenylenedioxy)dibenzonitrile was prepared from catechol (11.0 g., 0.100 mol.), 4-nitrobenzonitrile (32.56 g., 0.220 mol.), and anhydrous potassium carbonate (82.8 g., 0.600 mol.) in 300 mL of anhydrous dimethyl sulfoxide 80° C. for 20 h. It was obtained as white crystals, m.p. 117°-118° C., after recrystallization from isopropanol and heptane. IR spectrum (KBr pellet, cm-): 3100, 3065 (aromatic C-H), 2232 (C≡N), 1584, 1497 (aromatic C=C), 1270 (arylether).

reactant | catechol | 0.100 mol, 11.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 4-nitrobenzonitrile | 0.220 mol, 32.56 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | potassium carbonate | 0.600 mol, 82.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 300 mL | CS(=O)C | C2H6OS
product | 4,4'-(o-phenylenedioxy)dibenzonitrile | C1(=C(C=CC=C1)OC1=CC=C(C#N)C=C1)OC1=CC=C(C#N)C=C1 | C20H12N2O2
